US07345038B2
To a solution of 2-chloro-5-(chloromethyl)pyridine (1.0 g, 6.17 mmole) in 11 mL of dry acetonitrile is added 1.30 mL (12.3 mmol) of 2-amino-1-methoxypropane followed by 850 mg (6.17 mmol) of potassium carbonate. The reaction is heated at 80° C. for 5 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 640 mg (48% yield) of (6-Chloro-pyridin-3-ylmethyl)-(2-methoxy-1-methyl-ethyl)-amine. Diagnostic C13 NMR (100 MHz, CDCl3) 17.2, 48.0, 52.3, 59.1, 77.2, 124.1, 135.3, 138.9, 149.5, 150.1 MS (217.2 (M+H).

reactant | 2-chloro-5-(chloromethyl)pyridine | 6.17 mmole, 1.0 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2-amino-1-methoxypropane | 12.3 mmol, 1.30 mL | NC(COC)C | C4H11NO
reactant | potassium carbonate | 6.17 mmol, 850 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 11 mL | C(C)#N | C2H3N
product | (6-Chloro-pyridin-3-ylmethyl)-(2-methoxy-1-methyl-ethyl)-amine | 640 mg, 48% yield | ClC1=CC=C(C=N1)CNC(COC)C | C10H15ClN2O
